US05679708
5-Amino-1-pentanol (5.44 ml. manufactured by Tokyo Kasei Kogyo Co., Ltd.) was dissolved in methanol (110 ml). To the solution was added, under ice-cooling, di-tert-butyl dicarbonate (11.5 ml, manufactured by Wako Pure Chemical Industries, Ltd.), and the mixture was stirred for 16 hours at room temperature. The reaction mixture was concentrated, which was subjected to a silica gel column chromatography (500 ml). Elution was conducted with a hexane eluent supplemented with ethyl acetate sequentially. The fraction eluted with 40% to 100% (v/v) ethyl acetate was concentrated to give N-Boc-5-amino-1-pentanol (9.71 g) as a colorless oily product (yield 96%). A portion (3.00 g) of this product was dissolved in anhydrous tetrahydrofuran (60 ml). To the solution were added 60% sodium hydride (990 mg) and methyl iodide (3.09 ml). The mixture was stirred for 67 hours at room temperature. The reaction mixture was added to a 10% aqueous solution of ammonium chloride. The mixture was subjected to extraction with ether (100 ml×2). The ether layer was washed with water and a saturated aqueous saline solution, which was then dried over anhydrous sodium sulfate and concentrated. The concentrate was subjected to a silica gel column chromatography (100 ml). Elution was conducted with a hexane eluent sequentially supplemented with ethyl acetate. From the fraction eluted with 30% (v/v) ethyl acetate, N-Boc-5-methoxypentylamine (730 mg) was obtained as a colorless oily product (yield 23%). This product was dissolved in 4N HCl/ethyl acetate (7 ml, manufactured by Kokusan Kagaku Co., Ltd.). The solution was left standing for one hour at room temperature. The reaction mixture was concentrated, and resulting powdery precipitate was collected by filtration to obtain 5-methoxypentylamine hydrochloride (511 mg) as a white powdery product (yield 99%).

reactant | 5-Amino-1-pentanol | 5.44 ml | NCCCCCO | C5H13NO
reactant | di-tert-butyl dicarbonate | 11.5 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 110 ml | CO | CH4O
product | N-Boc-5-amino-1-pentanol | 9.71 g | C(=O)(OC(C)(C)C)NCCCCCO | C10H21NO3
